US06720324B2
5-BENZYL 1-(4-NITROPHENYL) 6-(3,4-DIFLUOROPHENYL)-4-ETHYL-2-METHOXY-1,5(6H)-PYRIMIDINEDICARBOXYLATE.
Into a well-stirred solution of benzyl 6-(3,4-difluorophenyl)-4-ethyl-2-methoxy-1,6-dihydro-5-pyrimidinecarboxylate (27.5 g, 68.75 mmol) and pyridine (9.2 mL) in CH2Cl2 (300 mL) was added 4-nitrophenyl chloroformate (14.49 g, 82.5 mmol) at room temperature. The reaction mixture was stirred for 4 h and then washed with 10% aqueous KOH solution (2×150 mL). The organic layer was separated and dried over Na2SO4. The solvent was removed in vacuo and the residue was used in the next step without further purification: 1H NMR (CDCl3) δ 1.24 (t, J=7.2 Hz, 3H), 2.81-2.98 (m, 3H), 3.97 (s, 3H), 5.14 (ABq, 2H), 6.28 (s, 3H), 7.03-7.29 (m, 8H), 7.35 (d, J=9.2 Hz, 2H), 8.26 (d, J=9.2 Hz, 2H).

reactant | benzyl 6-(3,4-difluorophenyl)-4-ethyl-2-methoxy-1,6-dihydro-5-pyrimidinecarboxylate | 68.75 mmol, 27.5 g | FC=1C=C(C=CC1F)C1C(=C(N=C(N1)OC)CC)C(=O)OCC1=CC=CC=C1 | C21H20F2N2O3
reactant | pyridine | 9.2 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 82.5 mmol, 14.49 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 5-BENZYL 1-(4-NITROPHENYL) 6-(3,4-DIFLUOROPHENYL)-4-ETHYL-2-METHOXY-1,5(6H)-PYRIMIDINEDICARBOXYLATE | FC=1C=C(C=CC1F)C1C(=C(N=C(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)CC)C(=O)OCC1=CC=CC=C1 | C28H23F2N3O7
